US06239151B1
A solution of 0.130 g of 2(R)-[1(S)-(N-benzyloxycarbamoyl)-4-cyclopentylbutyl]-2′-isobutyl-2′-[2-(imidazoyl)acetyl]-4-methylvalerohydrazide in 3 ml of methanol was hydrogenated in the presence of 0.040 g of 5% palladium-on-carbon for 4 hours. Filtration and evaporation gave a residue which was triturated with diethyl ether. Filtration gave 0.083 g of 2(R)-[4-cyclopentyl-1(S)-(hydroxycarbamoyl)butyl]-2′-isobutyl-2′-[2-(imidazoyl)acetyl]-4-methylvalerohydrazide in the form of a white solid.

reactant | 2(R)-[1(S)-(N-benzyloxycarbamoyl)-4-cyclopentylbutyl]-2′-isobutyl-2′-[2-(imidazoyl)acetyl]-4-methylvalerohydrazide | 0.130 g | C(C1=CC=CC=C1)ONC(=O)[C@@H](CCCC1CCCC1)[C@H](C(=O)NN(C(CC(=O)C=1NC=CN1)=O)CC(C)C)CC(C)C | C33H49N5O5
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.040 g | [Pd] | Pd
product | 2(R)-[4-cyclopentyl-1(S)-(hydroxycarbamoyl)butyl]-2′-isobutyl-2′-[2-(imidazoyl)acetyl]-4-methylvalerohydrazide | 0.083 g | C1(CCCC1)CCC[C@H](C(NO)=O)[C@H](C(=O)NN(C(CC(=O)C=1NC=CN1)=O)CC(C)C)CC(C)C | C26H43N5O5
